Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Macrobid / Remeron / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Fall/hip fracture
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ with a history of advanced dementia, b/l
hip fx and recurrent UTIs who presents after a fall at her care
facility, found to have a right acetabular fx on XR.

Ms. ___ lives at ___ and has been
wheelchair-bound at baseline for several years.  She stands to
transfer in and out of her wheelchair, self-ambulates in her
chair, but does not walk.  She has a history of recent falls:
___ L hip fracture, ___ R hip fracture, ___ fractured pelvis
after her wheelchair tipped over as she was rolling down a ramp. 

Her ___ fx was managed non-operatively and her family elected 
to
have her moved to a new hospice care ___-assisted living
facility with more supervision.

The day prior to admission ~12pm she was at a meal in the
cafeteria at her facility when she stood from her wheelchair in
an attempt to go to the bathroom; she was unassisted when she
underwent a witnessed fall.  She is arousable but minimally
responsive on interview and unable to provide additional 
history.

Per her facility, witnesses of the fall report no head trauma or
LOC.  She was seen at OSH ED -- C-spine XR, CXR, and head CT
without contrast showed no acute abnormalities.  CT pelvis w/o
contrast and hip XR showed "acute on chronic" right acetabular
fracture with minimal displacement. She was sent to ___ ED for
second opinion.

In the ED:
- Initial vital signs were notable for: HR 126 [104-126], BP
144/85 [144-159]/[72-90], RR 18 [___], O2Sat 98% RA [93% 2
- Exam notable for: neurovascularly intact in both lower
extremities, mentating at her baseline.
- Labs were notable for: white count of 21 with 86% neutrophils,
normal H&H, normal platelets, normal chemistry panel with the
exception of a glucose of 198, lactate 3.7, proBNP 2367. UA
notable for large leuks, small blood, negative nitrites, 30
protein, 300 glucose, 40 ketones, 11 RBCs, 127 WBCs, few
bacteria, 6 epis. 

- Studies performed include: 
XR Pelvis, R Hip, R Femur:  Acute right iliac wing fracture
extending to the right acetabulum, better assessed on outside
hospital CT.  
CXR: No evidence of acute cardiopulmonary abnormality.
CT Head (OSH): Negative
CT C Spine wo contrast (OSH): Negative
CXR OSH: Negative
CT Pelvis wo contrast(OSH): 
XR R Hip (OSH)

- EKG shows: 
Rate 111, irregular rhythm, normal axis, S waves in lead I, Q
waves in lead III, inverted T waves in lead III

- Patient was given: 
*Tylenol and ceftriaxone for UTI 
*500 cc of IV fluid for elevated lactate (3.7), but repeat
lactate was higher (4.5). She was given another 1L fluid and
repeat lactate returned to 3.7.  
 
- Consults:
*She was seen by orthopedics who did not recommend surgical
intervention.  Recommended follow-up in 2 weeks in trauma 
clinic,
and admission to medicine for UTI tx. 
*She was seen by ACS who found no indication for further w/u 
from
a trauma standpoint.

Vitals on transfer: ___ 0738 Temp: 98.7 PO BP: 153/82 R HR:
122 RR: 18 O2 sat: 94% O2 delivery: Ra 

Upon arrival to the floor, Ms. ___ is somnolent but 
arousable
to her name, does not follow commands or answer questions, 
speaks
a few incoherent words, and is overall mentating close to her
baseline.  Not yet tolerating PO but will eat soft foods and PO
medications at baseline.

 
Past Medical History:
Advanced Dementia
B/l hip fx
Anxiety
Hypothyroidism
HTN

PAST SURGICAL HISTORY:
B/l hip surgery
 
Social History:
___
Family History:
Unknown
 
Physical Exam:
PHYSICAL EXAM:
================
VITALS: Temp: 98.7 BP: 153/82 HR: 122 RR: 18 O2 sat: 94% O2 RA
GENERAL: Somnolent but arousable to voice, responds to name but
does not follow commands or answer questions. In mild discomfort
from pain.
HEENT: NCAT. PERRL, sclera anicteric and without injection. Lips
dry and cracked, bitemporal wasting.
CARDIAC: Tachycardic, RRR, normal S1 and S2, no m/r/g 
ABDOMEN: +BS, abdomen soft and non -distended, non-tender to 
deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: WWP, 2+ pulses, no clubbing cyanosis or edema, pain
to palpation of R hip, non-tender to palpation of b/l lower
extremities 
SKIN: Warm, dry, no rashes or notable lesions, 
NEUROLOGIC: Somnolent but arousable to name, speaks in few
incoherent words, moves upper extremities volitionally, weak
cough reflex
 
Pertinent Results:
LABS:
======
___ 07:37PM BLOOD WBC-21.1* RBC-3.98 Hgb-12.5 Hct-38.2 
MCV-96 MCH-31.4 MCHC-32.7 RDW-13.3 RDWSD-47.6* Plt ___
___ 07:37PM BLOOD Neuts-86.4* Lymphs-7.4* Monos-5.5 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-18.21* AbsLymp-1.56 
AbsMono-1.15* AbsEos-0.01* AbsBaso-0.04
___ 07:37PM BLOOD ___ PTT-27.0 ___
___ 07:37PM BLOOD Glucose-198* UreaN-15 Creat-0.6 Na-143 
K-4.1 Cl-100 HCO3-22 AnGap-21*
___ 07:37PM BLOOD proBNP-2367*
___ 12:42AM BLOOD Lactate-3.7*
___ 02:32AM BLOOD Lactate-4.5*
___ 04:53AM BLOOD Lactate-3.7*
___ 02:15PM BLOOD Lactate-3.1*

STUDIES:
========= 
XR Pelvis, R Hip, R Femur:  Acute right iliac wing fracture
extending to the right acetabulum, better assessed on outside
hospital CT.  
CXR: No evidence of acute cardiopulmonary abnormality.
CT Head (OSH): Negative
CT C Spine wo contrast (OSH): Negative
CXR OSH: Negative
CT Pelvis wo contrast(OSH): 
XR R Hip (OSH)

- EKG shows: 
Rate 111, irregular rhythm, normal axis, S waves in lead I, Q
waves in lead III, inverted T waves in lead III

MICRO:
=======
___: BLOOD CULTURE- PENDING
___: URINE CULTURE- PENDING
 
Brief Hospital Course:
___ with history of advanced dementia, b/l hip fractures, and
recurrent UTIs who presents after a fall, found to have complex 
R
acetabular fx, UTI, and elevated lactate.

ACUTE ISSUES:
=============
#Fall:
#R acetabular fracture:
Patient presented s/p witnessed fall with no reported LOC or 
head trauma, found to have complex R acetabular fx with negative 
CT head and CT C spine. Seen by orthopedic surgery who 
recommended non-operative management of fx. Seen by ACS who 
found no indication for further w/u from a trauma standpoint. 
Continued on her home pain management regimen of tylenol and 
oxycodone. If within ___, patient can call ___ clinic to 
schedule follow up in 2 weeks.

#Leukocytosis:
#UTI:
Patient has had multiple recurrent UTIs recently, unable to
provide accurate hx of urinary sx. Significant leukocytosis to 
21 with bacteriuria and pyuria. Started on ceftriaxone (___) 
with transition to Cefpodoxime on discharge for total 3-day 
course (end date ___.

#Tachycardia:
#c/f PE:
Patient remained tachycardic since the ED. Consider pain given 
hip fx vs. volume depletion given dry on exam vs. PE given 
tachypneic in the ED with EKG changes c/f PE including S waves 
in lead I, Q waves in lead III and T wave inversion in lead III, 
and proBNP 2367. Unable to provide accurate hx regarding 
symptoms. Continued on home pain medication regimen of tylenol 
and oxycodone and given 2.5L IVF. No ___ edema c/f DVT and 
dopplers negative for DVT. After further discussions with 
daughter, decision was made to forego further workup for PE 
given lifelong anticoagulation is not within goals of care.

#Elevated lactate:
Lactate elevated upon arrival (3.7), rose to 4.5 and returned to 
3.7 after 1.5L IVF. Received another 1L IVF and lactate 
decreased to 3.1. Likely elevated in the setting of infection 
vs. volume depletion. Encouraged PO intake and treating UTI per 
above.

#GOC:
Patient came from hospice care at ___. 
Code status clarified with daughter (HCP) as DNR/DNI, MOLST in 
paper chart. Daughter present at bedside this afternoon. Per 
discussions, patient is CMO, no further interventions or workup. 
No further labs to be drawn. Will treat current UTI with course 
of antibiotics and will transfer patient to inpatient hospice 
per family's request.

CHRONIC ISSUES:
===============
#Hypothyroidism:
Continued on home levothyroxine 75mcg daily.

#HTN:
Continued on home Metoprolol ER 25mg daily.

#Anxiety:
Facility reports pt is tearful at baseline in the afternoons 
daily, daughter (HCP) does not want anti-depressant or 
anti-anxiety medications.

#Dementia:
Advanced to end-stage dementia, mentating at baseline. 

TRANSITIONAL ISSUES:
====================
[] Touch-down weight bearing of right lower extremitie with 
assistance for transfers.
[] If patient would like to see ortho outpatient for hip 
fracture follow-up, can call: ___.
[] Treatment of UTI: Cefpodoxime 200mg q12h, end date ___.

=========================
#CODE: DNR/DNAI (confirmed), MOLST in paper chart
#CONTACT: Daughter (HCP) ___ ___  

More than 30 minutes were spent preparing this discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Moderate 

5. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 

 
Discharge Medications:
1.  Cefpodoxime Proxetil 200 mg PO/NG Q12H 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*4 Tablet Refills:*0 
2.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
3.  Docusate Sodium 100 mg PO BID:PRN Constipation - First Line  

4.  Levothyroxine Sodium 75 mcg PO DAILY  
5.  Metoprolol Succinate XL 25 mg PO DAILY  
6.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
-Right acetabular fracture
-Urinary tract infection
-Leukocytosis
-Tachycardia
-Elevated lactate

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___.

WHY WAS I ADMITTED TO THE HOSPITAL?
-You were admitted to the hospital because you fell and broke 
your hip.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
-You were seen by the orthopedic surgeons and the trauma 
surgeons, who do not believe that your fracture is operable. 
They recommend non-operative management and adequate pain 
control.
-You were given IV fluids since you were dehydrated.
-You were found to have a urinary tract infection, so you were 
started on antibiotics.
-You had an ultrasound of your legs to look for clots, and it 
showed no clots.

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
-Continue to take all of your medications as prescribed.

We wish you all the best,

Your ___ Care Team
 
Followup Instructions:
___